US07659305B2
(2S,4S)-4-(4-Bromo-phenylsulfanyl)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester
(2S,4S)-4-(4-Bromo-phenylsulfanyl)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester (Preparation 5, 120 mg, 0.30 mmol) was dissolved in MeOH (6 ml) and 2M sodium hydroxide was added (0.83 ml, 1.66 mmol). The solution was stirred for 14 h, concentrated and added to 0.5M HCl (50 ml). The aqueous was extracted with CH2Cl2 (50 ml) which was dried (magnesium sulphate) and concentrated. Flash column chromatography (eluting first with CH2Cl2 and then with 95% CH2Cl2/MeOH) gave the acid as a clear liquid (130 mg, 48%).

reactant | (2S,4S)-4-(4-Bromo-phenylsulfanyl)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 0.30 mmol, 120 mg | CCOC(=O)[C@H]1N(C[C@H](C1)SC1=CC=C(C=C1)Br)C(=O)OC(C)(C)C | C18H24BrNO4S
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | MeOH | 6 ml | CO | CH4O
product | (2S,4S)-4-(4-Bromo-phenylsulfanyl)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 130 mg, 48% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)SC1=CC=C(C=C1)Br)C(=O)O | C16H20BrNO4S
